US08426420B2
iii) 4-Methyl-2-(S)-pyrrolidin-2-yl-oxazole
A solution of 100 mg (S)-2-(4-methyl-oxazol-2-yl)-pyrrolidine-1-carboxylic acid benzyl ester in 5 ml EtOH was stirred in the presence of 15 mg Pd/C (10%) under an atmosphere of hydrogen (1 bar) for 2 h. The reaction mixture was filtered over a plug of Celite and washed with EtOH. Evaporation of the solvent gave the product as colorless oil.

reactant | (S)-2-(4-methyl-oxazol-2-yl)-pyrrolidine-1-carboxylic acid benzyl ester | 100 mg | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)C=1OC=C(N1)C | C16H18N2O3
solvent | EtOH | 5 ml | CCO | C2H6O
catalyst | Pd/C | 15 mg | [Pd] | Pd
product | 4-Methyl-2-(S)-pyrrolidin-2-yl-oxazole | CC=1N=C(OC1)[C@H]1NCCC1 | C8H12N2O
